US05356918
N-Methyl-N-(2-nitrooxyethyl)-2-oxothiazolidine-4-carboxamide monohydrate (Compound No. 1-26)
0.95 ml of triethylamine, 1.0 g of 2-oxothiazolidine-4-carboxylic acid and 1.30 g of 1-(N,N-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride were added, whilst ice-cooling and stirring, to a suspension of 1.24 g of N-methyl-N-(2-nitrooxyethyl)amine nitrate in 50 ml of dry N,N-dimethylformamide, and the resulting mixture was stirred at room temperature for 45 minutes, after which the solvent was removed by distillation under reduced pressure. The residue was mixed with ethyl acetate, and the resulting mixture was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under reduced pressure. The residual yellow oil was purified by column chromatography through silica gel, using a 4:1 by volume mixture of methylene chloride and ethyl acetate as the eluent. The colorless oil thus obtained was triturated with a small amount of tetrahydrofuran to induce crystallization. The crystals which precipitated were collected by filtration and recrystallized from acetone, to give 50 mg of the title compound as colorless crystals, melting at 110°-112° C.

reactant | triethylamine | 0.95 ml | C(C)N(CC)CC | C6H15N
reactant | 2-oxothiazolidine-4-carboxylic acid | 1.0 g | O=C1SCC(N1)C(=O)O | C4H5NO3S
reactant | 1-(N,N-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.30 g | Cl.CN(C)CCCN=C=NCC
reactant | N-methyl-N-(2-nitrooxyethyl)amine nitrate | 1.24 g | [N+](=O)(O)[O-].CNCCO[N+](=O)[O-]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-Methyl-N-(2-nitrooxyethyl)-2-oxothiazolidine-4-carboxamide monohydrate | 50 mg | O.CN(C(=O)C1NC(SC1)=O)CCO[N+](=O)[O-] | InChI=1S/C7H11N3O5S.H2O/c1-9(2-3-15-10(13)14)6(11)5-4-16-7(12)8-5;/h5H,2-4H2,1H3,(H,8,12);1H2
